US09212168B2
(a) (R)-tert-butyl 4-(5-(4-bromo-3-chloro-5-(trifluoromethoxy)benzamido)pyridin-2-yl)-3-methylpiperazine-1-carboxylate
To a mixture of (R)-tert-butyl 4-(5-aminopyridin-2-yl)-3-methylpiperazine-1-carboxylate (59.9 mg, 0.21 mmol) and 4-bromo-3-chloro-5-(trifluoromethoxy)benzoic acid (65.5 mg, 0.21 mmol; Preparation 50) in DMA (0.5 mL) at RT was added HATU (86 mg, 0.23 mmol) followed by DIPEA (0.11 mL, 0.62 mmol). The reaction mixture was stirred at RT for 1 h, partitioned between EtOAc (10 mL) and water (2 mL). The organic layer was washed with water (2 mL), dried over sodium sulfate, filtered and concentrated to give the title intermediate as a dark purplish oil. (m/z): [M+H]+ calcd for C23H25BrClF3N4O4 593.07; 595.07. found 595.

reactant | (R)-tert-butyl 4-(5-aminopyridin-2-yl)-3-methylpiperazine-1-carboxylate | 0.21 mmol, 59.9 mg | NC=1C=CC(=NC1)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C | C15H24N4O2
reactant | 4-bromo-3-chloro-5-(trifluoromethoxy)benzoic acid | 0.21 mmol, 65.5 mg | BrC1=C(C=C(C(=O)O)C=C1OC(F)(F)F)Cl | C8H3BrClF3O3
reactant | HATU | 0.23 mmol, 86 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.62 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | (R)-tert-butyl 4-(5-(4-bromo-3-chloro-5-(trifluoromethoxy)benzamido)pyridin-2-yl)-3-methylpiperazine-1-carboxylate | BrC1=C(C=C(C(=O)NC=2C=CC(=NC2)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)C)C=C1OC(F)(F)F)Cl | C23H25BrClF3N4O4
